US07163947B2
A solution of N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (1.36 g, 5.66 mmol) in 50 mL of chloroform was cooled in a cold water bath. The solution was treated with MCPBA (2.03 g, 7.07 mmol) over 5 min and then allowed to warm to ambient temperature. After 1 h, TLC showed complete conversion to the intermediate 5-N-oxide. The reaction mixture was again cooled with a cold water bath. The solution was treated with concentrated ammonium hydroxide solution (25 mL, 30%) and stirred rapidly to homogenize. The reaction mixture was treated with p-toluenesulfonyl chloride (1.13 g, 5.94 g) over 5 min and allowed to warm to ambient temperature. After 30 min, the reaction mixture was diluted with 50 mL of CHCl3 and 25 mL of water. An undissolved solid between the phases was filtered off, saved, and the phases were separated. The organic portion was washed with saturated NaHCO3 solution (30 mL), water (30 mL) and brine (30 mL). The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan/orange solid. A high-performance liquid chromatography (HPLC) analysis of the filtered solid matched that of the solid from the concentrated organic extracts. The combined solid was recrystallized twice from MeOH to give 1.18 g of N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine as an off-white solid.

reactant | N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 5.66 mmol, 1.36 g | N1(C=NC=2C=NC=3C=CC=CC3C21)NC(C)C | C13H14N4
reactant | MCPBA | 7.07 mmol, 2.03 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 1.13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 25 mL | O | H2O
product | N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 1.18 g | C(C)(C)NN1C=NC=2C(=NC=3C=CC=CC3C21)N | C13H15N5
